Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
contrast dye / peanuts / shellfish derived / fragrances / 
Dilantin / Tegretol / Compazine / Sulfa (Sulfonamide 
Antibiotics) / diphenhydramine / Lamictal
 
Attending: ___
 
Chief Complaint:
Paresthesias and swallowing difficulty 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx of hypothyroidism as well as a variety of
previous complaints including headaches, episodes of blurry
vision, pain including chronic back pain, obgyn issues, thyroid
issues, who presented to ___ with pins and needle sensations
over her whole body and difficultly swallowing. She states that
the pins and needles sensations started all of the sudden two
weeks ago after lowering her thyroid medication. They started in
her hands and feet and she feels as if they have ascended up to
her mid arm and up her legs to mid thigh. Sometimes she feels
pins and needles sensations sometimes burning sensations in her
trunk but these are intermittent and she has no sensations in 
her
trunk at this time.  She states that the sensations wax and wane
sometimes worse sometimes better.  She thinks her symptoms
started after her 2 granddaughters got sick one with a viral
illness 3 weeks ago and one with strep throat 2 weeks ago.  She
reports that she has had some gait difficulties associated with
these sensations but it too is intermittent.  Several days ago
she tried to walk up the stairs and felt as if it was very
difficult. But she was able to walk up the stairs and has had no
falls.  Today she was able to ambulate with no issues.  When she
woke up this morning, she felt as if she could not swallow.  She
reports a sharp stabbing pain in the left side of her neck but
denies a sore throat.  She did not choke on her food she just
felt as if she was unable to initiate the swallowing process and
she was scared to try to eat/drink. She went to ___ for
evaluation. There she was seen by neurology who recommended
transfer for MRI because the ___ MRI is broken at this time.
She says that this sensation of being unable to swallow has 
since
resolved and she now feels comfortable swallowing and is 
actually
quite hungry and would like to eat.  Neurology was consulted for
evaluation of her paresthesias and episode dysphasia.

On neuro ROS, the patient reports a long history of headaches,
eye pain and blurry vision especially left eye pain with
extraocular movements, left ear pain, she has episodes of 
vertigo
and room spinning dizziness but is not complaining of this 
today.
She reports pain in the left side of her neck earlier today but
denies a sore throat. At the same time, she felt as though she
could not initiate swallowing. All of this has since resolved. 
The pt denies diplopia or current vision issues.  Denies
difficulties producing or comprehending speech.  No bowel or
bladder incontinence or retention.  She reports heaviness with
gait and generalized fatigue but denies any recent falls.

On general review of systems, she reports persistent nausea
associated with her GERD.  Her granddaughters were both sick
recently and she felt off for about a day 3 weeks ago but did 
not
develop any symptoms of fever or vomiting.  She has had many
constitutional symptoms including tingling and chills and nausea
and vomiting since her thyroid medication was lowered from 100 
µg
to 80 µg daily. Denies cough, shortness of breath.  Denies chest
pain or tightness, palpitations.  Chronic constipation. 

 
Past Medical History:
CEREBRAL ANEURYSM right internal paraophthalmic carotid artery
aneurysm measuring approximately 4.5 mm in greatest dimension in
the paraclinoidal region. 
MENINGIOMA 
MIGRAINE HEADACHES 
HYPOTHYROIDISM 
VERTIGO 
GASTROESOPHAGEAL REFLUX 
HYPERPARATHYROIDISM 
Gallbladder and appendix removed
Prolapsed uterus

She was previously thought to have MS but was evaluated at ___
and told she does not carry this diagnosis.  She was also told
previously that she has seizures. She was on Dilantin and
Tegretol for these but then was worked up with multiple EEGs and
was told that they are nonepileptic events.

 
Social History:
___
Family History:
She has 1 daughter who is ___ years old and healthy.  She has 3
granddaughters who are ___, ___, and ___ with many allergies, 1 with
an arrhythmia.  Her mother is ___ and has ___ disease
hypertension, uterine prolapse and requires 24hr care.  Her
father passed away at ___ from congestive heart failure and
diabetes.  Her brother died at ___ from congestive heart failure. 

She has a sister with hyperlipidemia but is otherwise healthy

 
Physical Exam:
ADMISSION PHYSICAL EXAM
GENERAL EXAM: 
- Vitals: 97.7 70 138/73 18 100%RA
- General: Awake, cooperative, intermittently tearful throughout
the exam
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: No increased work of breathing
- Abdomen: soft
- Extremities: no edema
- Skin: no rashes or lesions noted.
 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. 

- Cranial Nerves:
PERRL 3 to 2mm and brisk. VFF to confrontation. EOMI without
nystagmus. Normal saccades. Facial sensation intact to light
touch. No facial droop.  No dysarthria.  She is able to drink an
entire cup of apple juice in front of the examiner without
coughing or choking.  Later she is eating a sandwich with no
issues.  Hearing intact to finger-rub bilaterally. Palate
elevates symmetrically. ___ strength in trapezii and SCM
bilaterally. Tongue protrudes in midline and to either side with
no evidence of atrophy or weakness.

- Motor: Normal bulk and tone throughout. No pronator drift
bilaterally. No adventitious movements such as tremor or
asterixis noted.  Motor exam is effort dependent.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5  
R  5    ___   ___  5   5    5  5     5     5  

- Sensory: No deficits to light touch throughout.  She reports
hyperesthesia to pinprick in the right foot up to mid shin on
both sides and then posteriorly.  She then wonders if she has
hyperesthesia to pinprick in the left foot circumferentially. 
There is no level to pp on the back.   Sensation is intact to
proprioception at the toes for large movements, some errors with
small movements. She reports decreased sensation to vibration at
the toes, left 5s, right 7s. No extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   1
Plantar response was flexor bilaterally.
- Coordination: No dysmetria on FNF or HKS bilaterally.
- Gait: Good initiation. Appears to walk with right sided limp
but denies pain. When asked, states "I'm just not walking 
right."
Able to walk in tandem without difficulty.  Able to walk with
stressed gait with no posturing and good balance.  Able to stand
arms extended eyes open with good balance.  When asked to close
her eyes falls backward and takes several steps but is able to
catch herself repeatedly.
============================================================
============================================================
DISCHARGE PHYSICAL EXAM
Vitals: Tm/c: 98.3/97.3 BP: 109-132/65-76 HR: ___ RR: ___ 
SaO2: 96-99% RA General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably on RA, no tachypnea
Cardiac: skin warm, well-perfused, no pallor nor diaphoresis. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented to medical situation. Speech 
fluent without paraphasic errors. Follows complex commands. 

-Cranial Nerves: PERRL 3->2. EOMI without nystagmus.  Face 
symmetric at rest and with activation. Hearing intact to 
conversation.  No dysarthria. 

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___        
L  5    ___   ___  5   5    5  5     5          
R  5    ___   ___  5   5    5  5     5    
Intermittent giveaway weakness, but gives at least bursts of ___ 
strength throughout. 

-Sensory: 10% hyperesthesia to PP R distal ___, otherwise intact 
throughout. Temperature intact throughout. Vibration decreased L 
more severely than R toes. Proprioception intact b/l toes. 

-DTRs:
   Bi Tri ___ Pat Ach  
 L  2  2    2    2   0                
 R  2  2    2    2   0             
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally.

 
Pertinent Results:
___ 07:20PM BLOOD WBC-7.8 RBC-4.78 Hgb-14.1 Hct-42.6 MCV-89 
MCH-29.5 MCHC-33.1 RDW-13.5 RDWSD-43.8 Plt ___
___ 06:35AM BLOOD WBC-6.9 RBC-4.58 Hgb-13.5 Hct-41.6 MCV-91 
MCH-29.5 MCHC-32.5 RDW-13.6 RDWSD-45.2 Plt ___
___ 10:50PM BLOOD ___ PTT-29.7 ___
___ 06:10AM BLOOD ___ PTT-31.2 ___
___ 07:20PM BLOOD Glucose-81 UreaN-11 Creat-0.6 Na-142 
K-4.3 Cl-105 HCO3-27 AnGap-14
___ 06:35AM BLOOD Glucose-84 UreaN-13 Creat-0.6 Na-138 
K-4.4 Cl-101 HCO3-26 AnGap-15
___ 07:20PM BLOOD Calcium-10.6* Phos-2.6* Mg-2.0
___ 06:10AM BLOOD TotProt-7.0 Calcium-10.0 Phos-3.5 Mg-2.0
___ 06:10AM BLOOD VitB12-707 Folate-18
___ 06:10AM BLOOD %HbA1c-5.1 eAG-100
___ 05:00PM BLOOD CRP-12.7*
___ 05:00PM BLOOD PEP-NO SPECIFI
___ 05:00PM BLOOD SED RATE- 6    
___ 06:10AM BLOOD COPPER (SERUM)-102     
___ 06:10AM BLOOD SED RATE-Test      
___ 06:10AM BLOOD VITAMIN B1-WHOLE BLOOD-PND
___ 06:10AM BLOOD VITAMIN E-PND
   

Imaging: 
MRI C-spine w/wo ___: 
1. No evidence of cord compression or neoplasm. 
2. Mild multilevel degenerative changes include small posterior 
disc bulges at C5-C6 and C6-C7 which result in mild vertebral 
canal narrowing at both levels and mild right neural foraminal 
narrowing at C6-C7. 

LP ___: 
1. Lumbar puncture at L4-5 without complication. 
2. The samples were personally submitted to the lab by Dr. 
___. 
I, Dr. ___ supervised the trainee during the key 
components of the above procedure and I reviewed and agree with 
the trainee's findings and dictation. 

 
Brief Hospital Course:
Ms. ___ presented with diffuse pins/needles paresthesiae. LP 
was attempted in the ED to evaluate for albuminocytologic 
dissociation, but were unable to obtain CSF at bedside. 
She was then admitted for LP by ___. LP initial results showed 
traumatic tap with protein 80. This elevated protein is 
consistent with a post-infectious inflammatory etiology of her 
paresthesiae. 
MRI C-spine showed mild degenerative changes, and did not show 
any lesions which could cause her symptoms. 
She was discharged with instructions to re-present to the 
nearest ED if her symptoms worsen or if she develops any new 
neurologic symptoms. 

Additionally, she reported red-tinged urine and recent diagnosis 
of UTI, but noncompliance with treatment. U/a was repeated, 
indicative of infection. She was prescribed a course of 
nitrofurantoin. 

==================================
Transitional Issues: 
[ ] Neuro: conitnue to monitor clinical status. Consider IVIg if 
clinical deterioration. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Metoprolol Succinate XL 12.5 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 5 
Days 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
twice a day Disp #*10 Capsule Refills:*0 
2.  Levothyroxine Sodium 88 mcg PO DAILY  
3.  Metoprolol Succinate XL 12.5 mg PO DAILY  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-infectious neuropathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___, 
You were admitted because of diffuse pins and needles sensation. 
We did a spinal tap to look for signs of a possibly dangerous 
cause of your pins/needles. Several of the tests are still 
pending, but the initial results showed some signs of 
inflammation in the spinal fluid. We also did an MRI of your 
neck to look for other potential causes of your symptoms, which 
was normal. 
We think that your pins and needles are related to an overactive 
immune system response to a recent viral infection (i.e. a 
cold). This will get better with time. If it gets worse or if 
you develop any new symptoms (such as weakness/heaviness of 
limbs, falls, worsening ability to walk, shortness of breath), 
please go to the nearest emergency department immediately. 

Your urinalysis shows that you have a UTI. We have prescribed an 
antibiotic.

Please follow up with your Neurologist, Dr. ___. 

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___